US06150373
A solution of 3.5 g (15.4 mmol) of 1-(4-bromophenyl)-2-methyl-propan-2-ol in 20 ml of glacial acetic acid was treated with 630 mg (15.4 mmol) of acetonitrile and cooled in ice. 10 ml of concentrated sulfuric acid was added slowly and the mixture stirred for 72 hours. The mixture was poured into 300 ml of ice/water and neutralised with potassium carbonate. The product was extracted with diethyl ether (2×250 ml). The combined organic phases were dried over magnesium sulfate, filtered and evaporated. The product was purified by recrystallisation from diethyl ether/hexane to give 3.3 g (80%) of N-[2-(4-bromophenyl)-1,1-dimethyl-ethyl]acetamide as a white solid. [Mass spectrum (ESI) MH+ =270].

reactant | 1-(4-bromophenyl)-2-methyl-propan-2-ol | 15.4 mmol, 3.5 g | BrC1=CC=C(C=C1)CC(C)(O)C | C10H13BrO
reactant | acetonitrile | 15.4 mmol, 630 mg | C(C)#N | C2H3N
reactant | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | N-[2-(4-bromophenyl)-1,1-dimethyl-ethyl]acetamide | 3.3 g, 80% | BrC1=CC=C(C=C1)CC(C)(C)NC(C)=O | C12H16BrNO
